US08012998B2
b) (3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide
To a solution of N,O-dimethylhydroxylamine hydrochloride (0.41 g, 4.2 mmol) and 1.23 g (3.5 mmol) of (3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid in DMF (20 mL) at RT was added Hunig base (1.79 ml, 10.5 mmol) and HATU (1.468 g, 3.9 mmol) and stirring was continued for one hour. The reaction mixture was diluted with ethyl acetate and washed with aq. ammonium chloride solution three times. The separated organic layer was washed with brine and dried on Na2SO4 and concentrated under vacuo yielding 1.36 g (99%) of the title compound as a light yellow oil. ES-MS m/e: 393.1 (M+H+).

reactant | N,O-dimethylhydroxylamine hydrochloride | 4.2 mmol, 0.41 g | Cl.CNOC
reactant | (3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid | 3.5 mmol, 1.23 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(=O)O | C18H17Cl2NO2
reactant | Hunig base | 10.5 mmol, 1.79 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.9 mmol, 1.468 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide | 1.36 g, 99% | CON(C(=O)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1)C | C20H22Cl2N2O2
